US05550260
1 To a solution of (S)-4-hydroxy-3-methyl-2(2-propynyl)-cyclopent-2-ene-1-one (12.88 g) and triethylamine (13.2 g) in tetrahydrofuran (200ml) was added dropwise chlorotrimethylsilane (10.4 g) for 5 minutes under ice-water cooling, then the solution was stirred for 2 hours under ice-water cooling, and 13 hours at room temperature. Then this solution was poured into ice-water and extracted twice with diethyl ether. The ether layers were combined and washed twice with brine. The separated organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resultant residue was subjected to column chromatography over florisil (eluent; n-hexane:ethyl acetate=20:1) to afford (S)-4-trimethylsilyloxy-3-methyl-2-(2-propynyl )-cyclopent-2-ene-1-one (18.0 g, yield 79.1% ) as a pale yellow oil.

reactant | (S)-4-hydroxy-3-methyl-2(2-propynyl)-cyclopent-2-ene-1-one | 12.88 g | O[C@@H]1C(=C(C(C1)=O)CC#C)C | C9H10O2
reactant | triethylamine | 13.2 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 10.4 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 200ml | O1CCCC1 | C4H8O
product | (S)-4-trimethylsilyloxy-3-methyl-2-(2-propynyl )-cyclopent-2-ene-1-one | 18.0 g, yield 79.1% | C[Si](O[C@@H]1C(=C(C(C1)=O)CC#C)C)(C)C | C12H18O2Si
